US07053212B2
Step A: 3-{4-[[3-(Tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid methyl ester
To a solution of 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid methyl ester (0.252 g, 0.46 mmol) in methanol was added palladium black (catalytic amount) and ammonium formate (0.289 g, 4.58 mmol). The reaction mixture was stirred at 60° C. for 24 hr. Additional palladium black (catalytic amount) and ammonium formate (0.289 g, 4.58 mmol) were added and the reaction mixture was stirred at 60° C. for 24 hr. The reaction mixture was filtered through diatomaceous earth and the filter cake was washed with water and saturated aqueous sodium bicarbonate. The aqueous solution was washed with methylene chloride. The organic layer was concentrated to afford 0.172 g of the title compound of Step A. 1H NMR (CDCl3) δ 7.10–7.05 (m, 1H), 7.00–6.90 (m, 4H), 6.89–6.80 (m, 4H), 6.75–6.70 (m, 1H), 5.27–5.25 (m, 1H), 4.80–4.70 (m, 2H), 3.85–3.75 (m, 1H), 3.60 (s, 3H), 3.55–3.50 (m, 1H), 2.82 (t, 2H, J=7.6 Hz), 2.53 (t, 2H, J=6.8 Hz), 2.43 (s, 6H), 2.26 (s, 3H), 2.00–1.90 (m, 1H), 1.85–1.75 (m, 2H) 1.65–1.50 (m, 3H).

reactant | 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid methyl ester | 0.46 mmol, 0.252 g | COC(C=CC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1)=O | C31H35NO6S
reactant | ammonium formate | 4.58 mmol, 0.289 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 4.58 mmol, 0.289 g | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | palladium black | [Pd] | Pd
product | 3-{4-[[3-(Tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid methyl ester | 0.172 g | COC(CCC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1)=O | C31H37NO6S
